US06569854B1
25 cm3 of a 1 N aqueous sodium hydroxide solution are added, at 20° C., to 4.5 g of ethyl 1-(dimethylaminoacetyl)piperidine-4-carboxylate in solution in 50 cm3 of ethanol. After stirring for 16 hours at 50° C., the ethanol is removed under reduced pressure (2.7 kPa) and the residual aqueous phase is extracted with 50 cm3 of ethyl acetate. The aqueous phase is then brought to pH 6 by addition of 1 N hydrochloric acid, and is then concentrated to dyrness under reduced pressure (2.7 kPa). Twice, the residue is covered with 50 cm3 of toluene and dried under reduced pressure (2.7 kPa). The residue is taken up in 50 cm3 of ethanol at 50° C. and the insoluble matter is removed by filtration. The filtrate is concentrated under reduceed pressure (2.7 kPa) to give 4.2 g of 1-(dimethylaminoacetyl)piperidine-4-carboxylic acid in the form of a yellow oil.

reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | ethyl 1-(dimethylaminoacetyl)piperidine-4-carboxylate | 4.5 g | CN(C)CC(=O)N1CCC(CC1)C(=O)OCC | C12H22N2O3
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | 1-(dimethylaminoacetyl)piperidine-4-carboxylic acid | 4.2 g | CN(C)CC(=O)N1CCC(CC1)C(=O)O | C10H18N2O3
